US08859773B2
Step 4: 3-methoxy-1H-indazole-6-carboxylic acid
1-Ethyl 6-methyl 3-methoxy-1H-indazole-1,6-dicarboxylate (444 mg, 1.60 mmol) was suspended in ethanol (5 mL). An aqueous solution of potassium hydroxide (16 mL, 16 mmol, 1 M) was added and the reaction was heated to 65° C. and stirred for 1.5 hours. The reaction was cooled to room temperature and concentrated. The residue was taken up in water and the solution was acidified with 1 N aqueous hydrochloric acid until a precipitate formed. The solid was collected by filtration, rinsed with water, and dried under vacuum to give the title compound (232 mg, 76%) as an orange solid. +ESI (M+H) 193.2; 1H NMR (400 MHz, DMSO-d6, δ): 12.22 (s, 1H), 7.90-7.94 (m, 1H), 7.64 (d, J=8.4 Hz, 1H), 7.53 (dd, J=8.4, 1.4 Hz, 1H), 3.99 (s, 3H).

reactant | 1-Ethyl 6-methyl 3-methoxy-1H-indazole-1,6-dicarboxylate | 1.60 mmol, 444 mg | COC1=NN(C2=CC(=CC=C12)C(=O)OC)C(=O)OCC | C13H14N2O5
reactant | potassium hydroxide | 16 mmol, 1 M, 16 mL | [OH-].[K+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-methoxy-1H-indazole-6-carboxylic acid | 232 mg, 76% | COC1=NNC2=CC(=CC=C12)C(=O)O | C9H8N2O3
